US07968747B2
3,3-Dimethylbutan-2-one O-(2-hydroxyethyl)oxime
400 ml of water, 92 g (0.8 mol) of 3,3-dimethylbutan-2-one oxime and 3.4 g of LiOH were initially charged, and 70 g (1.6 mol) of ethylene oxide were introduced such that the gas was taken up completely. Thereafter, the mixture was stirred at room temperature (RT) for 8-12 hours for the continued reaction. The upper phase was removed, admixed with ethyl acetate and washed with water. The organic phase was concentrated under reduced pressure at 100-200 mbar. Residue: 114-120 g of colorless oil, which corresponds to a yield of 90% yield; b.p. 106° C./35 mbar.

reactant | 3,3-dimethylbutan-2-one oxime | 0.8 mol, 92 g | CC(C(C)=NO)(C)C | C6H13NO
reactant | LiOH | 3.4 g | [Li+].[OH-]
reactant | ethylene oxide | 1.6 mol, 70 g | C1CO1 | C2H4O
solvent | water | 400 ml | O | H2O
product | 3,3-Dimethylbutan-2-one O-(2-hydroxyethyl)oxime | yield of 90% yield | OCCON=C(C)C(C)(C)C | C8H17NO2
